US07253198B2
1-(1,1-Dimethylethyl) 6-methyl 4-(1,1-dioxidotetrahydro-2H-1,2-thiazin-2-yl)-2,3-dihydro-1H-indole-1,6-dicarboxylate (D233) (500 mg, 1.2 mmol, 1 equiv) was dissolved in a 4N HCl solution in Et2O (10 ml, 40 mmol, excess) and the resulting solution was stirred at room temperature for 1 h then concentrated in vacuo. Trituration of the residue with Et2O gave methyl 4-(1,1-dioxidotetrahydro-2H-1,2-thiazin-2-yl)-2,3-dihydro-1H-indole-6-carboxylate hydrochloride salt (D234) (430 mg, 100%) as a white solid which was used in the next step without further purification. [M+H]+=311.0, RT=2.16 min.

reactant | 1-(1,1-Dimethylethyl) 6-methyl 4-(1,1-dioxidotetrahydro-2H-1,2-thiazin-2-yl)-2,3-dihydro-1H-indole-1,6-dicarboxylate | 1.2 mmol, 500 mg, 1 equiv | O=S1(N(CCCC1)C1=C2CCN(C2=CC(=C1)C(=O)OC)C(=O)OC(C)(C)C)=O | C19H26N2O6S
reactant | Et2O | 40 mmol, 10 ml | CCOCC | C4H10O
reactant | HCl | 4N | Cl | ClH
product | methyl 4-(1,1-dioxidotetrahydro-2H-1,2-thiazin-2-yl)-2,3-dihydro-1H-indole-6-carboxylate hydrochloride salt | 430 mg, 100% | Cl.O=S1(N(CCCC1)C1=C2CCNC2=CC(=C1)C(=O)OC)=O | InChI=1S/C14H18N2O4S.ClH/c1-20-14(17)10-8-12-11(4-5-15-12)13(9-10)16-6-2-3-7-21(16,18)19;/h8-9,15H,2-7H2,1H3;1H
